US09108973B2
(Step 1) Synthesis of tert-butyl 3-(4-chloro-5-iodo-7H-pyrrolo[2,3-d]pyrimidin-7-yl)azetidine-1-carboxylate
DIAD (1.41 ml) was added to a solution of 4-chloro-5-iodo-7H-pyrrolo[2,3-d]pyrimidine (1.00 g), N-Boc-3-hydroxyazetidine (930 mg), and triphenylphosphine (1.85 g) in tetrahydrofuran (40 ml), and the reaction mixture was stirred for 1 hour. After concentrating, the reaction mixture was washed with ethyl acetate to obtain the title compound as a white solid (1.07 g). Physical properties: m/z [M+H]+ 435.0

reactant | DIAD | 1.41 ml | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
reactant | 4-chloro-5-iodo-7H-pyrrolo[2,3-d]pyrimidine | 1.00 g | ClC=1C2=C(N=CN1)NC=C2I | C6H3ClIN3
reactant | N-Boc-3-hydroxyazetidine | 930 mg | C(=O)(OC(C)(C)C)N1CC(C1)O | C8H15NO3
reactant | triphenylphosphine | 1.85 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | tert-butyl 3-(4-chloro-5-iodo-7H-pyrrolo[2,3-d]pyrimidin-7-yl)azetidine-1-carboxylate | 1.07 g | ClC=1C2=C(N=CN1)N(C=C2I)C2CN(C2)C(=O)OC(C)(C)C | C14H16ClIN4O2
